US05684034
Preparation of 1-[(3-Chlorophenyl)methyl]-5-hydroxy-2-methyl-1H-indole-3-acetamide
A solution of 483 mg (1.4 mmol) of 1-[(3-chlorophenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetamide and 5.6 mL of 1M BBr3 /methylene chloride in 20 mL of methylene chloride was stirred for 5 hours, 2 mL of 1M BBr3 /methylene chloride added and stirred 16 hours. The mixture was poured into water, extracted with ethyl acetate, the ethyl acetate solution washed with brine, dried (MgSO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel and eluted using a gradient, 50% EtOAc/hexane→EtOAc, to give 155 mg of starting material, 1-[(3-chlorophenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetamide, and 220 mg (48% yield) off 1-[(3-chlorophenyl)methyl]-5-hydroxy-2-methyl-1H-indole-3-acetamide, mp, 173°-177° C.

reactant | 1-[(3-chlorophenyl)methyl]-5-methoxy-2-methyl-1H-indole-3-acetamide | 1.4 mmol, 483 mg | ClC=1C=C(C=CC1)CN1C(=C(C2=CC(=CC=C12)OC)CC(=O)N)C | C19H19ClN2O2
reactant | BBr3 methylene chloride | 1M, 5.6 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | BBr3 methylene chloride | 1M, 2 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | water | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-[(3-Chlorophenyl)methyl]-5-hydroxy-2-methyl-1H-indole-3-acetamide | 155 mg, 48% yield | ClC=1C=C(C=CC1)CN1C(=C(C2=CC(=CC=C12)O)CC(=O)N)C | C18H17ClN2O2
